US05344843
A solution of rac.-4-[[2-(2-naphthalenyloxy)ethyl]sulfinyl]-alpha-oxobenzeneacetic acid methyl ester (1 g) in dichloromethane (50 mL) was treated with 85% metachloroperbenzoic acid (0.81 g) and stirred at room temperature for one hour. The mixture was washed with saturated sodium bicarbonate solution, dried (Na2SO4), filtered, passed through silica gel (5 g) and the product eluted with dichloromethane. Crysallization from dichloromethane-hexane gave 0.61 g of 4-[[2-(2-naphthalenyloxy)ethyl]sulfonyl]-alpha-oxobenzeneacetic acid methyl ester, mp 110°-111° C.

reactant | rac.-4-[[2-(2-naphthalenyloxy)ethyl]sulfinyl]-alpha-oxobenzeneacetic acid methyl ester | 1 g | COC(C(C1=CC=C(C=C1)S(=O)CCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5S
reactant | metachloroperbenzoic acid | 0.81 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-[[2-(2-naphthalenyloxy)ethyl]sulfonyl]-alpha-oxobenzeneacetic acid methyl ester | 0.61 g | COC(C(C1=CC=C(C=C1)S(=O)(=O)CCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O6S
